US06054457
To a solution of 4-[2-(3-tert-butoxycarbonylaminoprop-1-yl)oxybenzoyl]amino-3-methoxy-N-methyl-N-[2-(5-carboxypent-1-yl)oxy-4-methylphenyl]benzamide (250 mg) and N-methylmorpholine (37 mg) in dichloromethane (5 ml) was added pivaloyl chloride (45 mg) at -15° C. After being stirred at the same temperature for 5 minutes, to the mixture was added 1-amino-4-methylpiperazine (47 mg) and the mixture was stirred at -15° C. for 1 hour and then stirred at ambient temperature for additional 2 hours. The resulting mixture was poured into saturated aqueous sodium hydrogen carbonate solution (20 ml) and the solution was extracted with chloroform (15 ml×3). The organic layer was washed with brine and dried over magnesium sulfate. The solvent was evaporated and the residue was purified on silica gel column chromatography (SiO3 30 g, 1-15% methanol in chloroform) to give 4-[2-(3-tert-butoxycarbonylaminoprop-1-yl)oxybenzoyl]amino-3-methoxy-N-methyl-N-[2-[5-(4-methylpiperazine-1-yl)aminocarbonylpent-1-yl]oxy-4-methylphenyl]benzamide (208 mg).

reactant | 4-[2-(3-tert-butoxycarbonylaminoprop-1-yl)oxybenzoyl]amino-3-methoxy-N-methyl-N-[2-(5-carboxypent-1-yl)oxy-4-methylphenyl]benzamide | 250 mg | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)O)C)C=C2)OC)C=CC=C1 | C37H47N3O9
reactant | N-methylmorpholine | 37 mg | CN1CCOCC1 | C5H11NO
reactant | pivaloyl chloride | 45 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 1-amino-4-methylpiperazine | 47 mg | NN1CCN(CC1)C | C5H13N3
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-[2-(3-tert-butoxycarbonylaminoprop-1-yl)oxybenzoyl]amino-3-methoxy-N-methyl-N-[2-[5-(4-methylpiperazine-1-yl)aminocarbonylpent-1-yl]oxy-4-methylphenyl]benzamide | 208 mg | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)NN3CCN(CC3)C)C)C=C2)OC)C=CC=C1 | C42H58N6O8
